US09193693B2
Step 1. Methyl 3-(4-fluorophenyl)-2-(4-(pyridin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylate
Into a 8-mL sealed tube, was placed methyl 2-chloro-3-(4-fluorophenyl)quinoxaline-6-carboxylate (200 mg, 0.63 mmol, 1.00 equiv), 1-(pyridin-2-yl)piperazine (207 mg, 1.27 mmol, 2.00 equiv), potassium carbonate (436.7 mg, 3.16 mmol, 5.00 equiv), N,N-dimethylformamide (4 mL). The resulting solution was stirred overnight at 100° C. in an oil bath. The reaction was then quenched by the addition of water. The resulting solution was extracted with 5×50 mL of dichloromethane and the organic layers combined. The mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:50). This resulted in 157.4 mg (56%) of methyl 3-(4-fluorophenyl)-2-(4-(pyridin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 2-chloro-3-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.63 mmol, 200 mg, 1.00 equiv | ClC1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)F)C(=O)OC | C16H10ClFN2O2
reactant | 1-(pyridin-2-yl)piperazine | 1.27 mmol, 207 mg, 2.00 equiv | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | potassium carbonate | 3.16 mmol, 436.7 mg, 5.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | Methyl 3-(4-fluorophenyl)-2-(4-(pyridin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylate | FC1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)N1CCN(CC1)C1=NC=CC=C1 | C25H22FN5O2
